US07291632B2
2-Chloro-4-fluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride
Prepare according to procedure in Example 66 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (200 mg, 0.907 mmol) and 2-chloro-4-fluorobenzoyl chloride (263 mg, 1.36 mmol), and using pyridine as the solvent, to yield 185 mg (49%) of the title compound: mass spectrum (ion spray): m/z=377.2 (M+1); Analysis calc'd for C19H23N4OFCl2.0.6H2O: C, 53.80; H, 5.75; N, 13.21. Found: C, 53.55; H, 5.66; N, 13.28. mp 229–31° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.907 mmol, 200 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 2-chloro-4-fluorobenzoyl chloride | 1.36 mmol, 263 mg | ClC1=C(C(=O)Cl)C=CC(=C1)F | C7H3Cl2FO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-4-fluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-benzamide hydrochloride | 185 mg, 49% | Cl.ClC1=C(C(=O)NC2=NC(=CC=C2)N(C2CCN(CC2)C)C)C=CC(=C1)F | InChI=1S/C19H22ClFN4O.ClH/c1-24-10-8-14(9-11-24)25(2)18-5-3-4-17(22-18)23-19(26)15-7-6-13(21)12-16(15)20;/h3-7,12,14H,8-11H2,1-2H3,(H,22,23,26);1H
